US05145483
Preparation of 2-(N-benzyloxycarbonylamino)-5-(N-benzylcarbonylamino)phenol
12 g of benzoyl chloride are slowly added dropwise to 0.77 mole (20 g) of 5-amino-2-(benzyloxycarbonylamino)phenol (prepared in the 2nd stage of Example 1) and 12 g of calcium carbonate in 120 ml of dioxane brought to 80° C. The mixture is heated for a further 20 minutes after the addition is complete. The mixture is filtered while hot in order to remove the inorganic salts. The expected product is precipitated by diluting the filtrate with ice-cold water. When recrystallized from methoxyethanol, it melts at 252° C.

reactant | benzoyl chloride | 12 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-amino-2-(benzyloxycarbonylamino)phenol | 0.77 mole, 20 g | NC=1C=CC(=C(C1)O)NC(=O)OCC1=CC=CC=C1 | C14H14N2O3
reactant | calcium carbonate | 12 g | C([O-])([O-])=O.[Ca+2]
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 2-(N-benzyloxycarbonylamino)-5-(N-benzylcarbonylamino)phenol | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)NC(=O)CC1=CC=CC=C1)O | C22H20N2O4
